US07645753B2
Amino-5-ethoxy-4-trifluoromethyl-benzonitrile
Iron powder (40.96 g, 733 mmol, 1.0 equiv) was added in small portions over 5 min to a stirred suspension of finely grinded 5-ethoxy-2-nitro-4-trifluoromethyl-benzonitrile (42.79 g, 164.5 mmol, 4.5 equiv) in methanol (85 mL) and conc. HCl (102 mL) which was cooled with a water bath to keep the internal temperature at 40-50° C. The resulting mixture was stirred for an additional hour at ca. 50° C. and then poured into ice cold water (700 mL). The precipitate was filtered, washed with water, dried, and dissolved in boiling ethanol (800 mL). Activated carbon (ca. 10 g) was added, the mixture refluxed for 45 min, the hot solution filtered and the organic phase evaporated under reduced pressure to dryness to leave 31.8 g (84%) of the title compound as a yellow solid which was used without further purification. MS (EI): 230.1 [M]+.

reactant | 5-ethoxy-2-nitro-4-trifluoromethyl-benzonitrile | 164.5 mmol, 42.79 g, 4.5 equiv | C(C)OC=1C(=CC(=C(C#N)C1)[N+](=O)[O-])C(F)(F)F | C10H7F3N2O3
solvent | methanol | 85 mL | CO | CH4O
solvent | HCl | 102 mL | Cl | ClH
catalyst | Iron | 733 mmol, 40.96 g, 1.0 equiv | [Fe] | Fe
product | Amino-5-ethoxy-4-trifluoromethyl-benzonitrile | 31.8 g, 84% | NC1=C(C#N)C=C(C(=C1)C(F)(F)F)OCC | C10H9F3N2O
